US09024018B2
Methyl-2-(4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamido)acetate hydroiodide (SS-001)
Glycine methyl ester (0.14 mmol) was suspended in dry MeCN (1 mL). Triethylamine (0.14 mmol) was added and the solution stirred for 10 minutes. Methyl 4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide (0.13 mmol) was then added and the reaction stirred at room temperature for 2 hours. The resulting precipitate was then filtered and washed with MeCN and ether. δH (DMSO-d6) 9.70 (2H, bs), 9.22 (1H, s), 5.76 (1H, s), 5.24 (2H, d, J=2.4), 4.45 (2H, s), 3.74 (3H, s), 3.60 (1H, t, J=2.4).

reactant | Glycine methyl ester | 0.14 mmol | COC(CN)=O | C3H7NO2
reactant | Triethylamine | 0.14 mmol | C(C)N(CC)CC | C6H15N
reactant | Methyl 4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbimidothioate hydroiodide | 0.13 mmol | I.O=C1N2C(N=NN1CC#C)=C(N=C2)C(=N)SC
solvent | MeCN | 1 mL | CC#N | C2H3N
product | Methyl-2-(4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboximidamido)acetate hydroiodide | I.COC(CNC(=N)C=1N=CN2C1N=NN(C2=O)CC#C)=O | InChI=1S/C11H11N7O3.HI/c1-3-4-18-11(20)17-6-14-8(10(17)15-16-18)9(12)13-5-7(19)21-2;/h1,6H,4-5H2,2H3,(H2,12,13);1H
